Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
alcohol / caffeine / coffee / nuts / Tetracycline / doxycycline 
/ Sulfa (Sulfonamide Antibiotics) / lactose / raw fruit
 
Attending: ___
 
Chief Complaint:
Transient generalized weakness, unsteady gait, slurred speech, 
blurry vision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ with hx of non-ischemic cardiomyopathy, 
CHF, Afib on Coumadin, recently admitted for acute on chronic 
CHF here for a period of generalized weakness, unsteady gait, 
slurred speech, blurry vision, possible problems with 
coordination of left hand. 

Pt was recently admitted to ___ ___ to ___ for acute 
CHF exacerbation. He had been noticing increased swelling in b/l 
legs up to his thighs left more than right for 1.___s shortness of breath with exertion and CP. He underwent stress 
test which was normal and was started on Lasix with improvement 
in his ___ swelling. He was continued on Lasix after discharge 
and had been feeling better. 

This AM, he felt OK upon awakening. However, he notes that after 
sitting down to eat, he started feeling lightheaded and felt 
like he was going to pass out. He leaned to the right several 
times and was able to straighten himself out after each episode. 
It is difficult to tease out whether he leaned to the right only 
as a result of feeling lightheaded and presyncopal or if he had 
an independent force making him lean to the right. He started 
feeling generally weak and when he got up to the do the dishes 
his gait was unsteady but he was able to walk. His legs felt 
like they were "giving out" underneath him and he also felt 
tingling in b/l arms. He was able to walk down the stairs and 
get his laundry but when carrying it back up the steps, he had 
to stop every two steps and put the laundry down as it was felt 
especially heavy and he felt very tired. He tried to call one of 
his care providers to cancel an appointment but when he was 
dialing with his left hand, he kept missing the numbers. This 
was the only time he noticed problems with coordination with his 
hand. 
When he talked to his wife, his speech was slurred - this lasted 
for around 1 hr in total. He called EMS after noticing his 
slurred speech. +blurry vision throughout. 

Of note, in ___, he had a syncopal episode thought to be ___ 
dehydration after being outside in the heat - at that time, he 
felt lightheaded, passed out, and then awoke on the ground. 

He also reports that ever since he was diagnosed with afib 
several years ago, he has had postural instability - noticeably 
when he bends forward he cannot stop himself from falling 
forward. 

Currently, he endorses only slowed speech and thinking. His 
other symptoms have all resolved and he feels currently at 
baseline. 

On neurologic review of systems, the patient denies headache. 
Denies difficulty with producing or comprehending speech. Denies 
loss of vision, blurred vision, diplopia, vertigo, tinnitus, 
hearing difficulty, or dysphagia. Denies focal muscle weakness, 
numbness, parasthesia. Denies loss of sensation. 

On general review of systems, + dyspnea on exertion, +dysuria. 
Otherwise denies recent fever or chills. Denies cough, shortness 
of breath.  Denies chest pain or tightness, palpitations.  
Denies nausea, vomiting, diarrhea, or abdominal pain.  

 
Past Medical History:
A fib s/p failed cardioversion
HTN
HLD
Nonischemic cardiomyopathy
Chronic pain - groin pain that is neuropathic in nature L more 
than right. 
Low back pain 
Kidney stone
Prostate cancer    
Knee replacement                              

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Exam:
Vitals: 97.3F, HR 77, 148/97, RR 16, 100% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Cardiac: Irregularly irregular
Abdomen: soft, NT/ND
Extremities: b/l ___ edema up to mid calf. 

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: L NLFF and decreased activation. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___ 
L  5    ___   ___   5    5  5     5     5  
R  5    ___   5  4+  5   5    5  5     5     5  

-Sensory: Decreased distal vibratory sense in ___ - Absent at b/l 
big toes, 6 sec on R ankle, absent in L ankle, 8 sec at L knee.  
No deficits to light touch, vibratory sense, proprioception 
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was flexor bilaterally. No ankle clonus. 
+Crossed adductor b/l. 

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Mild sway 
with ___ that he says is baseline due to neuropathy. 

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: L NLFF and decreased activation. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___ 
L  5    ___   ___   5    5  5     5     5  
R  5    ___   5  4+  5   5    5  5     5     5  

-Sensory: Decreased distal vibratory sense in ___ - Absent at b/l 
big toes, 6 sec on R ankle, absent in L ankle, 8 sec at L knee.  
No deficits to light touch, vibratory sense, proprioception 
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was flexor bilaterally. No ankle clonus. 
+Crossed adductor b/l. 

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Mild sway with Romberg (chronic due to neuropathy).
 
Pertinent Results:
___ 11:19PM   WBC-4.4 RBC-4.11* HGB-11.4* HCT-36.7* MCV-89 
MCH-27.7 MCHC-31.1* RDW-13.8 RDWSD-45.1

___ 11:19PM   ALBUMIN-3.8 CALCIUM-9.3 PHOSPHATE-4.4 
MAGNESIUM-2.1

___ 11:19PM   ALT(SGPT)-18 AST(SGOT)-28 ALK PHOS-56 TOT 
BILI-0.5

___ 11:04AM   WBC-2.3* RBC-3.98* HGB-11.4* HCT-35.1* MCV-88 
MCH-28.6 MCHC-32.5 RDW-14.0 RDWSD-45.4

___ 11:04AM   %HbA1c-4.9 eAG-94

___ 11:04AM   CHOLEST-140

___ 11:04AM   TRIGLYCER-57 HDL CHOL-53 CHOL/HDL-2.6 
LDL(CALC)-76

Imaging
Non-Contrast CT of Head:
CT: Periventricular white matter hypodensities are nonspecific 
but likely represent sequela of chronic small vessel ischemic 
disease, unchanged from ___. There is no large 
territorial infarction, acute intracranial hemorrhage or 
significant mass effect.

CTA H and N: Artifact in the mediastinum limits assessment of 
the vertebral and common carotid arteries. There is mild 
stenosis of the left common carotid at bulb secondary to 
atherosclerotic disease. There is mild to moderate stenosis of 
the right ICA immediately distal to the bifurcation secondary to 
atherosclerotic disease. Assessment of the petrous and cavernous 
portions of the left internal carotid artery are limited. There 
is likely moderate to high-grade stenosis of the cavernous ICAs, 
bilaterally secondary to atherosclerotic disease.

MRI non con ___
FINDINGS:  
No acute infarcts are identified on diffusion images.  
Hyperintensities in the periventricular white matter indicate 
moderate changes of small vessel 
disease.  There is no midline shift or hydrocephalus.  Areas of 
low signal on susceptibility images in the basal ganglia 
indicate basal ganglia 
calcification.  Other calcifications seen on the CT are not 
apparent. 
IMPRESSION:  
No acute infarcts mass effect or hydrocephalus.  Moderate 
changes of small 
vessel disease. 

 
Brief Hospital Course:
___ is a ___ old man with a history of NICM, 
atrial fibrillation subtherapeutic on Coumadin, hypertension, 
hyperlipidemia and chronic pain who presented after an episode 
of generalized weakness and instability and was found to have a 
left facial droop and dysarthria. His neurologic deficits 
resolved, as did his sense of generalized weakness. He was 
admitted for workup of TIA given significant atherosclerotic 
burden and subtherapeutic INR. He underwent CT head which showed 
evidence of chronic small vessel ischemic disease. CTA head and 
neck showed atherosclerotic burden without flow limitation. MRI 
non contrast showed moderate small vessel disease but no acute 
intracranial pathology. His symptoms were thought to secondary 
to Transient Ischemic Attack. Given significant amount of  
atherosclerosic burden seen on imaging his home lovastatin 40mg 
daily was switched to atorvastatin 80mg daily. Regarding his 
subtherapeutic INR patient was started on lovenox with bridge to 
Coumadin until INR is therapeutic. His Coumadin was increased 
from 5mg daily to 6mg daily. His PCP ___ follow his INR. His 
lab work also showed thyroid panel consistent with 
hyperthyroidism. Patient was instructed to follow up with his 
PCP regarding this finding. His PCP was contacted and informed 
about the results. Discharge summary will be sent to his PCP. 
All discharge instructions were reviewed in detail with pt. Pt 
verbalized understanding of discharge instructions and denied 
further needs prior to discharge home. Pt scheduled for f/u with 
outpatient neurology as mentioned in discharge instructions. 
Advised pt to follow-up sooner with any questions/concerns.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Lovastatin 40 mg oral DAILY daily 
4. Pregabalin 100 mg PO TID 
5. Warfarin 5 mg PO DAILY 
6. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H 

 
Discharge Medications:
1.  Enoxaparin Sodium 90 mg SC BID 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 90 mg SC twice a day Disp #*14 Syringe 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Warfarin 6 mg PO DAILY16  
4.  Furosemide 20 mg PO DAILY  
5.  Lisinopril 5 mg PO DAILY  
6.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H  
7.  Pregabalin 100 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA
atrial fibrillation
hyperthyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
You were hospitalized due to symptoms of slurred speech and 
facial droop resulting from an TRANSIENT ISCHEMIC ATTACK, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
Stroke and TIAs can have many different causes, so we assessed 
you for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
- atrial fibrillation
- atherosclerosis (cholesterol in the blood vessels going to 
your brain)
 
We are changing your medications as follows:  
- changing your lovastatin to atorvastatin  
 
Please take your other medications as prescribed.  
 
We also saw that your thyroid tests show that your body is 
making too much thyroid hormone. This can lead to problems with 
your heart, eyes, and nerves. You should follow up with your 
primary care doctor as you may need more testing.

Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___